US04386213
765 g of 1-aminomethyl-5-amino-1,3,3-trimethyl cyclohexane and 708 g of hydrazodicarbonamide are stirred in 1 liter of N-methyl pyrrolidone for 4 hours at 175° C., for 5 hours at 200° C. and for 15 hours at 220° C. The solvent is then distilled off in vacuo and the residue is dried in vacuo, giving 1473 g (97% of the theoretical) of 1-(3,5-dioxo-1,2,4-triazolidin-4-yl-methyl)-1,3,3-trimethyl-5-(3,5-dioxo-1,2,4-triazolidin-4-yl)-cyclohexane in the form of colourless crystals melting at 213 C. (decomposition).

reactant | 1-aminomethyl-5-amino-1,3,3-trimethyl cyclohexane | 765 g | NCC1(CC(CC(C1)N)(C)C)C | C10H22N2
reactant | hydrazodicarbonamide | 708 g | C(=O)(N)NNC(=O)N | C2H6N4O2
solvent | N-methyl pyrrolidone | 1 liter | CN1C(CCC1)=O | C5H9NO
product | 1-(3,5-dioxo-1,2,4-triazolidin-4-yl-methyl)-1,3,3-trimethyl-5-(3,5-dioxo-1,2,4-triazolidin-4-yl)-cyclohexane | O=C1NNC(N1CC1(CC(CC(C1)N1C(NNC1=O)=O)(C)C)C)=O | C14H22N6O4
